US08420678B2
p-Butylbenzenesulfonyl Chloride.
To a solution of butylbenzene (4.13 g, 30.8 mmol) in CHCl3 (50 mL) was added chlorosulfonic acid (17 mL, 29.8 g, 256 mmol) and the mixture was stirred at rt for 20 h. The mixture was poured on ice (200 mL) and extracted with EtOAc (3×100 mL). The combined extracts were washed with water, a solution of NaHCO3, and water, dried (Na2SO4), and concentrated in vacuo. The yellow oily residue (ca 88% yield) was used without further purification in the next reaction; 1H NMR (300 MHz, CDCl3) δ 0.94 (t, 3H, J=7 Hz), 1.34-1.41 (m, 2H), 1.62-1.67 (m, 2H), 2.73 (t, 2H, J=8 Hz), 7.41 (d, 2H, J=8 Hz), 7.94 (d, 2H, J=8 Hz).

reactant | butylbenzene | 30.8 mmol, 4.13 g | C(CCC)C1=CC=CC=C1 | C10H14
reactant | chlorosulfonic acid | 256 mmol, 17 mL, 29.8 g | ClS(=O)(=O)O | ClHO3S
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | p-Butylbenzenesulfonyl Chloride | ca 88% yield | C(CCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
